US05672588
2-Amino-N-(1-phenoxy-2-propyl)adenosine
1-Phenoxy-2-propylamine (2.90 g, 19.2 mmol) and 9-(2,3,5-tri- O-acetyl-β-D-ribofuranosyl)-2-amino-6-chloro-9H-purine (6.94 g, 16.2 mmol) were dissolved in dioxan (50 ml) and triethylamine (4.5 ml, 33.2 mmol) was introduced. After stirring the reaction mixture for 18 h at room temperature, diisopropylethylamine (2.08 g, 16.1 mmol) was added and the solution was heated at 80° C. for 100 h. Following column column chromatography, a 1.3 g sample of the resultant 2',3',5'-tri- O-acetyl-2-amino- N-(1-phenoxy-2-propyl)adenosine was deprotected using saturated methanolic ammonia (50 ml). The reaction mixture was evaporated, and the residue dissolved in in a mixture of ethyl acetate (150 ml) and water (150 ml). The phases were separated and the ethyl acetate phase was washed with water (2×150 ml). The ethyl acetate phase was then extracted with pH 2 dilute hydrochloric acid, and this acidic aqueous phase was washed with ethyl acetate (2×100 ml), and basified with sodium bicarbonate solution before extraction with ethyl acetate (100 ml). The ethyl acetate phase was was dried (MgSO4) and evaporated to give the title compound (0.43 g, 33%) a mixture of diastereoisomers as an amorphous foam, 1H NMR (DMSO-d6)δ 1.28 (3H, d, --CH3), 3.49-3.57 (1H, m, H-5'a), 3.61-3.68 (1H, m, H-5'b), 3.85-3.94 and 4.07-4.15 (4H, 2m, m, H-4', H-3' and --CH2 --), 4.50 (1H, q, H-2'), 4.68 (1H, br, --C HCH3), 5.11, 5.36 (2H, 2d, 2'- and 3'-OH), 5.40 (1H, t, 5'-OH) 5.73 (1H, d, H-1'), 5.83 (1H, br, --NH2), 6.88-6.96 (3H, m, Ar--H), 7.22-7.31 (2H, t, Ar--H), 7.95 (1H, s, H-8).

reactant | 1-Phenoxy-2-propylamine | 19.2 mmol, 2.90 g | O(C1=CC=CC=C1)CC(C)N | C9H13NO
reactant | 9-(2,3,5-tri- O-acetyl-β-D-ribofuranosyl)-2-amino-6-chloro-9H-purine | 16.2 mmol, 6.94 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C2=NC(=NC(=C2N=C1)Cl)N | C16H18ClN5O7
reactant | triethylamine | 33.2 mmol, 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | diisopropylethylamine | 16.1 mmol, 2.08 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2',3',5'-tri- O-acetyl-2-amino- N-(1-phenoxy-2-propyl)adenosine | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=2C(NC(COC3=CC=CC=C3)C)=NC(=NC12)N | C25H30N6O8
reactant | ammonia | 50 ml | N | H3N
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 2-Amino-N-(1-phenoxy-2-propyl)adenosine | 0.43 g, 33% | NC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)NC(COC1=CC=CC=C1)C | C19H24N6O5
